US06982348B2
N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-N′-(1-naphthalenyl)urea
To a solution of (1RS,2SR)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride (150 mg, 0.43 mmol) in acetonitrile (10 ml) were added triethylamine (0.089 ml, 0.64 mmol) and 1-naphthyl isocyanate (0.062 ml, 0.43 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (50 ml) and extracted with ethyl acetate (50 ml×2). The extract was washed successively with 1N hydrochloric acid, 1N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (135 mg, 65%).

reactant | (1RS,2SR)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride | 0.43 mmol, 150 mg | Cl.FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)N)O
reactant | triethylamine | 0.64 mmol, 0.089 ml | C(C)N(CC)CC | C6H15N
reactant | 1-naphthyl isocyanate | 0.43 mmol, 0.062 ml | C1(=CC=CC2=CC=CC=C12)N=C=O | C11H7NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
product | N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-N′-(1-naphthalenyl)urea | 135 mg, 65% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(=O)NC1=CC=CC2=CC=CC=C12)O | C27H22F4N2O2
